US07173058B2
Cyclopropanecarboxylic acid {2-[2-carbamoyl-1-(4-difluoromethoxy-3-ethoxy-phenyl)-ethyl]-7-chloro-3-oxo-2,3-dihydro-1H-isoindol-4-yl }-amide was prepared by the procedure of Example 6 from 3-[4-chloro-7-(cyclopropanecarbonylamino)-1-oxo-1,3-dihydro-isoindol-2-yl]-3-(4-difluoromethoxy-3-ethoxy-phenyl)-propionic acid (0.55 g, 1.1 mmol), CDI (0.26 g, 1.6 mmol) and NH4OH (0.35 ml, 3.3 mmol) in THF (15 ml) to give cyclopropanecarboxylic acid {2-[2-carbamoyl-1-(4-difluoromethoxy-3-ethoxy-phenyl)-ethyl]-7-chloro-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide as white solid (0.10 g, 20%): mp 198–200° C.; 1HNMR (CDCl3): δ 0.89–0.93 (m, 2H, c-CH2), 1.10–1.20 (m, 2H, c-CH2), 1.44 (t, J=7.5 Hz, 3H, OCH2CH3), 1.66–1.68 (m, 1H, c-CH), 2.98 (dd, J=5, 15 Hz, 1H, CH2), 3.43 (dd, J=10, 15 Hz, 1H, CH2), 4.09 (q, J=7.5 Hz, 2H, OCH2CH3), 4.18 (d, J=17.5 Hz, 1H, CHHN), 4.37 (d, J=17.5 Hz, 1H, CHHN), 5.48 (br, 1H, NHH), 5.57–5.53 (m, 1H, CHN), 5.92 (br, 1H, NHH), 6.86 (t, JH-F=75 Hz, 1H, CF2H), 6.94–7.02 (m, 3H, Ar), 7.16(d, J=10 Hz, 1H, Ar), 7.38 (t, J=8 Hz, 1H, Ar), 8.45 (d, J=8 Hz, 1H, Ar), 10.40 (s, 1H, NHCO). 13CNMR (CDCl3): δ 8.5, 14.6, 16.2, 38.6, 47.9, 54.1, 64.9, 101.57, 102.3, 113.2, 116.0, 119.2, 119.8, 121.8, 123.0, 133.2, 136.8, 137.1, 139.1, 150.9, 169.4, 171.1, 172.6; Anal Calcd for C24H26ClF2N3O5: C, 56.75; H, 4.76; N, 8.27. Found: C, 56.68; H, 4.63; N, 8.04.

reactant | 3-[4-chloro-7-(cyclopropanecarbonylamino)-1-oxo-1,3-dihydro-isoindol-2-yl]-3-(4-difluoromethoxy-3-ethoxy-phenyl)-propionic acid | 1.1 mmol, 0.55 g | ClC1=C2CN(C(C2=C(C=C1)NC(=O)C1CC1)=O)C(CC(=O)O)C1=CC(=C(C=C1)OC(F)F)OCC | C24H23ClF2N2O6
reactant | CDI | 1.6 mmol, 0.26 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | NH4OH | 3.3 mmol, 0.35 ml | [NH4+].[OH-]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | cyclopropanecarboxylic acid {2-[2-carbamoyl-1-(4-difluoromethoxy-3-ethoxy-phenyl)-ethyl]-7-chloro-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide | 0.10 g, 20% | C(N)(=O)CC(C1=CC(=C(C=C1)OC(F)F)OCC)N1CC2=C(C=CC(=C2C1=O)NC(=O)C1CC1)Cl | C24H24ClF2N3O5
